US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2-hydroxyethyl)-2′-isopropenyl-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane
To a mixture of racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-2′-isopropenyl-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane (150 mg, 0.26 mmol) and acetic acid 2-bromo-ethyl ester (867 mg, 5.22 mmol) was added LiH (63 mg, 7.9 mmol). The mixture was stirred at room temperature for 20 h, then diluted with ethyl acetate (10 mL), quenched with water (10 mL). The organic layer was separated, washed with water for 5 times, dried over Na2SO4, and concentrated. The residue was purified by column chromatography to give product (57 mg).

reactant | racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-2′-isopropenyl-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 0.26 mmol, 150 mg | BrC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C(=C)C)=O.COC(C)[Si](C)(C)C
reactant | acetic acid 2-bromo-ethyl ester | 5.22 mmol, 867 mg | BrCCOC(C)=O | C4H7BrO2
reactant | LiH | 7.9 mmol, 63 mg | [H-].[Li+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2-hydroxyethyl)-2′-isopropenyl-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 57 mg | BrC1=CC=C2C(=C1)NC(C21C(N(C(CC1C1=CC(=CC=C1)Cl)=O)CCO)C(=C)C)=O.COC(C)[Si](C)(C)C | InChI=1S/C23H22BrClN2O3.C6H16OSi/c1-13(2)21-23(17-7-6-15(24)11-19(17)26-22(23)30)18(12-20(29)27(21)8-9-28)14-4-3-5-16(25)10-14;1-6(7-2)8(3,4)5/h3-7,10-11,18,21,28H,1,8-9,12H2,2H3,(H,26,30);6H,1-5H3
